US08492549B2
To a solution of [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl]methanol (0.40 g, 1.37 mmol) in DCM (1.5 ml) was added 50% NaOH (6 ml), tetrabutylammonium hydrogensulfate (0.46 g, 1.37 mmol) and tert-butyl bromoacetate (5.35 g, 27.45 mmol). The reaction mixture was stirred at RT for 24 h. Water was added, the reaction mixture was extracted with EtOAc (3×10 ml). The combined organic phases were dried over Na2SO4, filtered and the filtrate was evaporated to give 3-(2-tert-butoxy-ethoxymethyl)-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidine. This crude intermediate (0.20 g, 0.50 mmol) in dry THF (2 ml) was then added to a suspension of LiAlH4 (0.19 g, 5.00 mmol) in dry THF (4 ml). The reaction mixture was refluxed for 1.5 h. Water was slowly added and the reaction mixture was extracted with EtOAc (3×10 ml). The combined organic phases were dried over Na2SO4, filtered and the filtrate was evaporated to give the crude product, which was purified by column chromatography (EtOAc/heptane, 50:50).

reactant | [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl]methanol | 1.37 mmol, 0.40 g | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(CC)CO | C17H25NO3
reactant | NaOH | 6 ml | [OH-].[Na+]
reactant | tert-butyl bromoacetate | 27.45 mmol, 5.35 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | Water | O | H2O
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogensulfate | 1.37 mmol, 0.46 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-(2-tert-butoxy-ethoxymethyl)-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidine | C(C)(C)(C)OCCOCC1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)CC | C23H37NO4
